US08980877B2
A solution of (±)-(E)-3-{1′-benzyl-3,4-dihydro-4-oxo-spiro[2H-(1,3)-benzoxazine-2,3′-piperidin]-6-yl}-acrylic acid methyl ester (240 mg, 0.61 mmol) in water (5 ml) and dioxane (10 ml) was treated with 1 M NaOH (0.80 ml) as described in Example 30, Step A, to give (±)-(E)-3-{1′-benzyl-3,4-dihydro-4-oxo-spiro[2H-(1,3)-benzoxazine-2,3′-piperidin]-6-yl}-acrylic acid (hydrochloride salt, 240 mg) as a brown oil.

reactant | (±)-(E)-3-{1′-benzyl-3,4-dihydro-4-oxo-spiro[2H-(1,3)-benzoxazine-2,3′-piperidin]-6-yl}-acrylic acid methyl ester | 0.61 mmol, 240 mg | COC(\C=C\C=1C=CC2=C(C(NC3(CN(CCC3)CC3=CC=CC=C3)O2)=O)C1)=O | C23H24N2O4
reactant | NaOH | 1 M, 0.80 ml | [OH-].[Na+]
solvent | water | 5 ml | O | H2O
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | (±)-(E)-3-{1′-benzyl-3,4-dihydro-4-oxo-spiro[2H-(1,3)-benzoxazine-2,3′-piperidin]-6-yl}-acrylic acid | 240 mg | C(C1=CC=CC=C1)N1CC2(CCC1)OC1=C(C(N2)=O)C=C(C=C1)/C=C/C(=O)O | C22H22N2O4
